US04670593
N-Isopropylbromofluoro acetamide
A solution of 14.8 grams (0.25 mole) isopropyl amine in 25 milliliters ethanol was added dropwise to a solution of ethyl bromofluoroacetate, 40 grams (0.22 mole), and 5 drops ethylene glycol in 100 milliliters ethyl alcohol at 10°-15° C. The solution was stirred at 10°-20° C. for 2 hours and was then stored at -15° C. for 3 days. At this time, the solution was evaporated to leave a liquid, 41.8 grams, nD30 1,4629, identified by infrared spectroscopy as the title compound.

reactant | isopropyl amine | 0.25 mole, 14.8 grams | C(C)(C)N | C3H9N
reactant | ethyl bromofluoroacetate | BrC(C(=O)OCC)F | C4H6BrFO2
solvent | ethanol | 25 milliliters | C(C)O | C2H6O
catalyst | ethylene glycol | 5 drops | C(CO)O | C2H6O2
solvent | ethyl alcohol | 100 milliliters | C(C)O | C2H6O
product | N-Isopropylbromofluoro acetamide | C(C)(C)NC(C(F)Br)=O | C5H9BrFNO
